US07579469B2
Synthesis of 1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-2-(4-imino-4H-quinolin-1-ylmethyl)-4-methylpentan-2-ol
To a solution of 1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-[4-(tritylimino)-4H-quinolin-1-ylmethyl]pentan-2-ol (470 mg) in methylene chloride (50 mL) was added trifluoroacetic acid (2 mL). After 2 hours, another portion of trifluoroacetic acid (1 mL) was added and the mixture was stirred for another 4 hours. The reaction was quenched by slow addition of saturated aqueous sodium bicarbonate solution and was extracted twice with ethyl acetate. The combined organic phases were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by column chromatography with silica gel (eluted with 8 to 10% methanol-methylene chloride) to give the title compound (84.2 mg), m.p. 137° C.-140° C.

reactant | 1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-[4-(tritylimino)-4H-quinolin-1-ylmethyl]pentan-2-ol | 470 mg | FC(C(CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)CN1C=CC(C2=CC=CC=C12)=NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(F)F | C42H38F4N2O2
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-2-(4-imino-4H-quinolin-1-ylmethyl)-4-methylpentan-2-ol | 84.2 mg | FC(C(CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)CN1C=CC(C2=CC=CC=C12)=N)(F)F | C23H24F4N2O2
